US07390908B2
Preparation of 3,5-bis(benzyloxy)-N-(5-cyanopyridin-2-yl)benzamide
The title compound was prepared as described in Example A (route 1), starting from 2-amino-5-cyanopyridine and 3,5-bis(benzyloxy) benzoyl chloride, 1H NMR δ (d6-DMSO): 5.19 (4H, s); 6.89 (1H, m); 7.26-7.46 (12H, m); 8.27 (1H, dd); 8.33 (1H, d); 8.84 (1H, s); 11.23 (1H, br s); m/z (LCMS; ESI+) 436 (MH+).

reactant | 2-amino-5-cyanopyridine | NC1=NC=C(C=C1)C#N | C6H5N3
reactant | 3,5-bis(benzyloxy) benzoyl chloride | C(C1=CC=CC=C1)OC=1C=C(C(=O)Cl)C=C(C1)OCC1=CC=CC=C1 | C21H17ClO3
product | 3,5-bis(benzyloxy)-N-(5-cyanopyridin-2-yl)benzamide | C(C1=CC=CC=C1)OC=1C=C(C(=O)NC2=NC=C(C=C2)C#N)C=C(C1)OCC1=CC=CC=C1 | C27H21N3O3
